US04670443
The acetal compound may be converted to the desired benzaldehyde compound by first intimately mixing the acetal compound with a metal alkyl such as n-butyllithium at very low temperatures (less than -70° C.) in an atmosphere of nitrogen to obtain a metal derivative. Thereafter, a solution of N-formylpiperidine in an inert solvent such as tetrahydrofuran is added in a dropwise manner to the suspension of the metal derivative obtain a 2-(2,2-dimethoxyethyl) benzaldehyde compound. The reaction is then quenched with saturated ammonium chloride to remove the acetal alkoxy group and to obtain the desired benzaldehyde compound which then is recovered by extraction with ether followed by evaporation of the solvent.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-formylpiperidine | C(=O)N1CCCCC1 | C6H11NO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2,2-dimethoxyethyl) benzaldehyde | COC(CC1=C(C=O)C=CC=C1)OC | C11H14O3
